Benchmark C17 V4

****** Dispositivos Lógicos ******

.include dis/logica.cir
.include dis/DFF.cir
.include mc.cir

****** SETs ******

.include SETs.cir

****** HSPICE ******

.option measform = 3
.option post = 0

****** Fontes de Tensão Geral ******

.include vdd.cir

****** Fontes de Sinal ******

.include fontes.cir

****** Circuito ******

Xinva1 vcc gnd a fa NOT
Xinva2 vcc gnd fa ta NOT
Xinvb1 vcc gnd b fb NOT
Xinvb2 vcc gnd fb tb NOT
Xinvc1 vcc gnd c fc NOT
Xinvc2 vcc gnd fc tc NOT
Xinvd1 vcc gnd d fd NOT
Xinvd2 vcc gnd fd td NOT
Xinve1 vcc gnd e fe NOT
Xinve2 vcc gnd fe te NOT

Mp11 vdd ta i12 ta PMOS_RVT nfin=3
Mp12 vdd tb i12 tb PMOS_RVT nfin=3
Mn11 i12 ta i11 ta NMOS_RVT nfin=3
Mn12 i11 tb gnd tb NMOS_RVT nfin=3

Mp13 vdd i12 e1 i12 PMOS_RVT nfin=3
Mn13 e1 i12 gnd i12 NMOS_RVT nfin=3

MpI1 vdd tc nc tc PMOS_RVT nfin=3
MnI1 nc tc gnd tc NMOS_RVT nfin=3

Mp21 vdd td i22 td PMOS_RVT nfin=3
Mp22 vdd tb i22 tb PMOS_RVT nfin=3
Mn21 i22 td i21 td NMOS_RVT nfin=3
Mn22 i21 tb gnd tb NMOS_RVT nfin=3

Mp23 vdd i22 e2 i22 PMOS_RVT nfin=3
Mn23 e2 i22 gnd i22 NMOS_RVT nfin=3

Mp31 vdd nc i3 nc PMOS_RVT nfin=3
Mp32 i3 e2 e3 e2 PMOS_RVT nfin=3
Mn31 e3 nc gnd nc NMOS_RVT nfin=3
Mn32 e3 e2 gnd e2 NMOS_RVT nfin=3

Mp41 vdd e1 i41 e1 PMOS_RVT nfin=5
Mp42 i41 e3 i42 e3 PMOS_RVT nfin=5
Mn41 i42 e1 gnd e1 NMOS_RVT nfin=3
Mn42 i42 e3 gnd e3 NMOS_RVT nfin=3

Mp43 vdd i42 g1 i42 PMOS_RVT nfin=3
Mn43 g1 i42 gnd i42 NMOS_RVT nfin=3

Mp51 vdd tc i5 tc PMOS_RVT nfin=3
Mp52 i5 te e4 te PMOS_RVT nfin=3
Mn51 e4 tc gnd tc NMOS_RVT nfin=3
Mn52 e4 te gnd te NMOS_RVT nfin=3

Mp61 vdd e2 i6 e2 PMOS_RVT nfin=3
Mp62 i6 e4 g2 e4 PMOS_RVT nfin=3
Mn61 g2 e2 gnd e2 NMOS_RVT nfin=3
Mn62 g2 e4 gnd e4 NMOS_RVT nfin=3

Vmeasg1 g1 m1 0
Vmeasg2 g2 m2 0

//Representação de um circuito pós benchmark
xff1 clk m1 q1 nq1 vcc gnd DFF
xff2 clk m2 q2 nq2 vcc gnd DFF
xinv11 vcc gnd q1 nnq1 NOT
xinv12 vcc gnd q2 nnq2 NOT  

****** Controle ******

.include measure.cir
.include monte_carlo.cir

************
.end
