
*descricao de fontes
vf0 f0in gnd 0.7
vf1 f1in gnd 0.7
vf2 f2in gnd 0.7
vf3 f3in gnd 0.7
vf4 f4in gnd 0.7
vf5 f5in gnd 0.7
vf6 f6in gnd 0.7
vf7 f7in gnd PWL(0n 0.7 2n 0.7 2.01n 0 4n 0)

*multiplicador booth 
	.include library.cir
	.include 16nm_LP.pm
*fonte de tensao--------------------
	Vvdd vdd gnd 0.7
	Vvdd2 vdd2 gnd 0.7
*inciais----------------------------	
	Va a gnd 0
	Vp1 pin1 gnd 0
	Vp2 pin2 gnd 0
	Vp3 pin3 gnd 0
	Vp4 pin4 gnd 0
*entradas-------------------------
	.include fontes.txt
	Xinva0 f0in a0 vdd2 gnd INV
	Xinva1 f1in a1 vdd2 gnd INV
	Xinva2 f2in a2 vdd2 gnd INV
	Xinva3 f3in a3 vdd2 gnd INV
	Xinva4 f4in a4 vdd2 gnd INV
	Xinva5 f5in a5 vdd2 gnd INV
	Xinva6 f6in a6 vdd2 gnd INV
	Xinva7 f7in a7 vdd2 gnd INV
	Xinvb0 a0 f0 vdd2 gnd INV
	Xinvb1 a1 f1 vdd2 gnd INV
	Xinvb2 a2 f2 vdd2 gnd INV
	Xinvb3 a3 f3 vdd2 gnd INV
	Xinvb4 a4 f4 vdd2 gnd INV
	Xinvb5 a5 f5 vdd2 gnd INV
	Xinvb6 a6 f6 vdd2 gnd INV
	Xinvb7 a7 f7 vdd2 gnd INV	
*linha1-------------------------------------------
	Xxor1 a f3 enb1 vdd gnd XOR
	Xand1 f3 enb1 c01 vdd gnd AND
	Xcas11 c01 f7 f3 enb1 pin1 p0 c11 vdd gnd CAS
	Xcas12 c11 f6 f3 enb1 pin2 sum12 c12 vdd gnd CAS
	Xcas13 c12 f5 f3 enb1 pin3 sum13 c13 vdd gnd CAS
	Xcas14 c13 f4 f3 enb1 pin4 sum14 c14 vdd gnd CAS
*linha2------------------------------------------- 
	Xxor2 f3 f2 enb2 vdd gnd XOR
	Xand2 f2 enb2 c02 vdd gnd AND
	Xcas21 c02 f7 f2 enb2 sum12 p1 c21 vdd gnd CAS
	Xcas22 c21 f6 f2 enb2 sum13 sum22 c22 vdd gnd CAS
	Xcas23 c22 f5 f2 enb2 sum14 sum23 c23 vdd gnd CAS
	Xcas24 c23 f4 f2 enb2 sum14 sum24 c24 vdd gnd CAS
*linha3-------------------------------------------
	Xxor3 f2 f1 enb3 vdd gnd XOR
	Xand3 f1 enb3 c03 vdd gnd AND
	Xcas31 c03 f7 f1 enb3 sum22 p2 c31 vdd gnd CAS
	Xcas32 c31 f6 f1 enb3 sum23 sum32 c32 vdd gnd CAS
	Xcas33 c32 f5 f1 enb3 sum24 sum33 c33 vdd gnd CAS
	Xcas34 c33 f4 f1 enb3 sum24 sum34 c34 vdd gnd CAS
*linha4------------------------------------------
	Xxor4 f1 f0 enb4 vdd gnd XOR
	Xand4 f0 enb4 c04 vdd gnd AND	
	Xcas41 c04 f7 f0 enb4 sum32 p3 c41 vdd gnd CAS
	Xcas42 c41 f6 f0 enb4 sum33 p4 c42 vdd gnd CAS
	Xcas43 c42 f5 f0 enb4 sum34 p5 c43 vdd gnd CAS
	Xcas44 c43 f4 f0 enb4 sum34 p6 c44 vdd gnd CAS
*---saidas---------------------------------------
	Cload0 p0 gnd 1f
	Cload1 p1 gnd 1f
	Cload2 p2 gnd 1f
	Cload3 p3 gnd 1f
	Cload4 p4 gnd 1f
	Cload5 p5 gnd 1f
	Cload6 p6 gnd 1f
*simulacao-----------
.tran 0.001 4n
*measure-------------
.include measure.txt
.end