Full Adder do Rafael Neves

****** Includes ******

.include ../include.cir

****** HGSPICE ******

.option measform = 3
.option post = 0

***** FAN IN ******
* Mp1inva4 vdd a na vdd          		pmos_rvt w=27.0n l=20n nfin=3
* Mn1inva4 na a vss gnd   			nmos_rvt w=27.0n l=20n nfin=3 
* Mp1invb4 vdd b nb vdd          		pmos_rvt w=27.0n l=20n nfin=3
* Mn1invb4 nb b vss gnd   			nmos_rvt w=27.0n l=20n nfin=3 
* Mp1invcin4 vdd cin ncin vdd         pmos_rvt w=27.0n l=20n nfin=3
* Mn1invcin4 ncin cin gnd gnd   	nmos_rvt w=27.0n l=20n nfin=3 

* Mp2inva4 vcc na a vdd          		pmos_rvt w=27.0n l=20n nfin=3
* Mn2inva4 a na vss gnd   			nmos_rvt w=27.0n l=20n nfin=3 
* Mp2invb4 vcc nb b vdd          		pmos_rvt w=27.0n l=20n nfin=3
* Mn2invb4 b nb vss gnd   			nmos_rvt w=27.0n l=20n nfin=3 
* Mp2invcin4 vdd ncin cin vdd         pmos_rvt w=27.0n l=20n nfin=3
* Mn2invcin4 cin ncin vss gnd   	nmos_rvt w=27.0n l=20n nfin=3 

****** SaRT QUASAR ******
Mp1 vdd a p1_p2 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp2 p1_p2 b p2_n1 vdd 						pmos_rvt w=27.0n l=20n nfin=3
Mp3 vdd a p3_p4 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp4 p3_p4 cin p2_n1 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp5 vdd b p3_p4 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp6 vdd cin p6_p9 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp7 vdd a p6_p9 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp8 vdd b p6_p9 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp9 p6_p9 p2_n1 p9_n6 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp10 vdd a p10_p11 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp11 p10_p11 b p11_p12 vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mp12 p11_p12 cin p9_n6 vdd 					pmos_rvt w=27.0n l=20n nfin=3

Mn1 p2_n1 b n1_n2 gnd 					nmos_rvt w=27.0n l=20n nfin=3 
Mn2 n1_n2 a vss gnd 					nmos_rvt w=27.0n l=20n nfin=3 
Mn3 n4_n3 a vss gnd 					nmos_rvt w=27.0n l=20n nfin=3 
Mn4 p2_n1 cin n4_n3 gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn5 n4_n3 b vss gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn6 p9_n6 p2_n1 n6_n7 gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn7 n6_n7 cin vss gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn8 n6_n7 a vss gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn9 n6_n7 b vss gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn10 p9_n6 cin i10 gnd					nmos_rvt w=27.0n l=20n nfin=3
Mn11 i10 b i11 gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mn12 i11 a vss gnd 				nmos_rvt w=27.0n l=20n nfin=3

Mp13 vdd p9_n6 sum vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mn13 sum p9_n6 vss gnd 					nmos_rvt w=27.0n l=20n nfin=3
Mp14 vdd p2_n1 cout vdd 					pmos_rvt w=27.0n l=20n nfin=3
Mn14 cout p2_n1 vss gnd 				nmos_rvt w=27.0n l=20n nfin=3

* Mp1fout4S vdd sum nsum vdd          	pmos_rvt w=27.0n l=20n nfin=4
* Mn1fout4S nsum sum vss gnd   		nmos_rvt w=27.0n l=20n nfin=4 

* Mp1fout4C vdd cout ncout vdd         pmos_rvt w=27.0n l=20n nfin=4
* Mn1fout4C ncout cout vss gnd   	nmos_rvt w=27.0n l=20n nfin=4

**** END QUASAR ****

*dcell node cout
* Mp15 vdd gate_p15 drain_p15 vdd 				pmos_rvt w=27.0n l=20n nfin=3
* Mn15 gate_p15 drain_p15 cout gnd				nmos_rvt w=27.0n l=20n nfin=3
* Mp16 cout gate_p16 drain_p16 vdd					pmos_rvt w=27.0n l=20n nfin=3
* Mn16 gate_p16 drain_p16 gnd gnd				nmos_rvt w=27.0n l=20n nfin=3

* *dcell node cout
* Mp25 vdd gate_q15 drain_q15 vdd 				pmos_rvt w=27.0n l=20n nfin=3
* Mn25 gate_q15 drain_q15 sum gnd				nmos_rvt w=27.0n l=20n nfin=3
* Mp26 sum gate_q16 drain_q16 vdd					pmos_rvt w=27.0n l=20n nfin=3
* Mn26 gate_q16 drain_q16 gnd gnd				nmos_rvt w=27.0n l=20n nfin=3

.end